US05981559
Dimethylformamide (5.0 ml) was added to a mixture of 3-[2-(4-tert-butyl-2-thiazolyl)ethyl]-5'-[3-(4-chlorophenylsulfonyl)propyl]-2'-cyanomethoxybenzanilide (0.57 g, 0.90 mmol), ammonium chloride (96 mg, 1.8 mmol) and sodium azide (0.12 g, 1.9 mmol), and the resulting mixture was stirred at 70° C. for 12 hours. Ice and 10% citric acid aqueous solution were added to the reaction solution, and the product formed was extracted with ethyl acetate. The resulting organic layer was washed with water and brine in that order, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent=methanol:chloroform=3:100) and then crystallized from acetonitrile to give 3-[2-(4-tert-butyl-2-thiazolyl)ethyl]-5'-[3-(4-chlorophenylsulfonyl)propyl]-2'-(1H-tetrazol-5-ylmethoxy)benzanilide (0.34 g, 0.50 mmol, 56%) as colorless crystals. Its structure is shown in Table 30.

reactant | 3-[2-(4-tert-butyl-2-thiazolyl)ethyl]-5'-[3-(4-chlorophenylsulfonyl)propyl]-2'-cyanomethoxybenzanilide | 0.90 mmol, 0.57 g | C(C)(C)(C)C=1N=C(SC1)CCC=1C=C(C(=O)NC2=C(C=CC(=C2)CCCS(=O)(=O)C2=CC=C(C=C2)Cl)OCC#N)C=CC1 | C33H34ClN3O4S2
reactant | ammonium chloride | 1.8 mmol, 96 mg | [Cl-].[NH4+]
reactant | sodium azide | 1.9 mmol, 0.12 g | [N-]=[N+]=[N-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | Dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | 3-[2-(4-tert-butyl-2-thiazolyl)ethyl]-5'-[3-(4-chlorophenylsulfonyl)propyl]-2'-(1H-tetrazol-5-ylmethoxy)benzanilide | 0.50 mmol, 0.34 g, 56% | C(C)(C)(C)C=1N=C(SC1)CCC=1C=C(C(=O)NC2=C(C=CC(=C2)CCCS(=O)(=O)C2=CC=C(C=C2)Cl)OCC2=NN=NN2)C=CC1 | C33H35ClN6O4S2
